US07186715B2
1-Carboxymethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To 1-methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (52.6 g, 180.5 mmol) in MeOH (500 mL) was added 1 N NaOH (199 mL, 199.0 mmol). The mixture is stirred at r.t. for about 48 hours and then concentrated to dryness. The resulting residue was dissolved in water (300 mL) and extracted with diethyl ether (2×). The aqueous portion was acidified to pH 2 with 10% aqueous sodium bisulfate and extracted with EtOAc. The combined organic extracts were dried (MgSO4) and concentrated to dryness to afford about 49.8 g of the final compound (99%). EIS-MS 276 [M−1].

reactant | 1-methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 180.5 mmol, 52.6 g | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2C1)CC(=O)OC | C16H21NO4
reactant | NaOH | 199.0 mmol, 1 N, 199 mL | [OH-].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
product | 1-Carboxymethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | about 49.8 g, 99% | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2C1)CC(=O)O | C15H19NO4
